US06660738B2
To 137 mg (2.5 mmol) (3R,5S)-Thioacetic acid S-[5-[[benzyloxycarbonyl-(2,5-difluoro-benzyl)-amino]-methyl]-1-(5-propyl-pyrimidin-2-yl)-pyrrolidin-3-yl]ester in 5 ml EE were added 320 μl 33% HBr in acetic acid at 0° C. The solution was stirred at RT for 12 h, poured on NaHCO3 and the inorganic phase was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and were evaporated. Purification with column chromatography with EtOAc as eluent yielded 65 mg (63%) (3R,5S)-Thioacetic acid S-[5-[(2,5-difluoro-benzylamino)-methyl]-1-(5-propyl-pyrimidin-2-yl)-pyrrolidin-3-yl]ester as colorless oil, MS: 421(MH+). (Nicht in Liste).

reactant | (3R,5S)-Thioacetic acid S-[5-[[benzyloxycarbonyl-(2,5-difluoro-benzyl)-amino]-methyl]-1-(5-propyl-pyrimidin-2-yl)-pyrrolidin-3-yl]ester | 2.5 mmol, 137 mg | C(C1=CC=CC=C1)OC(=O)N(CC1=C(C=CC(=C1)F)F)C[C@@H]1C[C@H](CN1C1=NC=C(C=N1)CCC)SC(C)=O | C29H32F2N4O3S
reactant | HBr | 320 μl | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (3R,5S)-Thioacetic acid S-[5-[(2,5-difluoro-benzylamino)-methyl]-1-(5-propyl-pyrimidin-2-yl)-pyrrolidin-3-yl]ester | 65 mg, 63% | FC1=C(CNC[C@@H]2C[C@H](CN2C2=NC=C(C=N2)CCC)SC(C)=O)C=C(C=C1)F | C21H26F2N4OS
